US09193692B2
F. 3-(4-Bromo-2-fluoro-5-methylphenyl)-1H-1,2,4-triazole
To a solution of 4-bromo-N-((dimethylamino)methylene)-2-fluoro-5-methylbenzamide (24.6 g, 86.2 mmol) in acetic acid (200 mL) was added dropwise hydrazine hydrate (25 mL, 0.70 mol) at 0° C. The reaction mixture was stirred at room temperature overnight. The mixture was filtered washed with water (500 mL×3) and dried under reduced pressure to give the title compound (15 g, 68% yield) as a white solid. MS (ESI) m/z 256.0 [M+1]+.

reactant | 4-bromo-N-((dimethylamino)methylene)-2-fluoro-5-methylbenzamide | 86.2 mmol, 24.6 g | BrC1=CC(=C(C(=O)N=CN(C)C)C=C1C)F | C11H12BrFN2O
reactant | hydrazine hydrate | 0.70 mol, 25 mL | O.NN
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 3-(4-Bromo-2-fluoro-5-methylphenyl)-1H-1,2,4-triazole | 15 g, 68% yield | BrC1=CC(=C(C=C1C)C1=NNC=N1)F | C9H7BrFN3
